* netlist auto-generated by asc_to_net.py from boost_chopper.asc
V1 N001 0 5
L1 N001 N002 700u
S1 N002 0 ctrl 0 SW
D1 N002 N003 DMOD
C1 N003 0 500u
R1 N003 0 28.8
V2 ctrl 0 PULSE(0 10 0 10n 10n {Tsw*D} {Tsw})
.model SW SW(Ron=1m Roff=1G Vt=0.01)
.model DMOD D(Is=1e-9 N=1.0 Rs=0.001)
.param fsw=20k
.param Tsw=1/fsw
.param D=0.583
.tran 2u 100m 95m
.end
